US05051423
4-[4-(Phenylmethyl)piperazin-1-yl]benzenamine
Add 474 g (2.10 mol) tin chloride dihydrate to a refluxing solution of 125 g (0.420 mol) 4-(4-nitrophenyl)-1-(phenylmethyl)piperazine in ethanol. Reflux the solution for about 15 h then cool to room temperature and remove the solvent. Dissolve the residue in water and adjust to pH 12 withsodium hydroxide. Extract the aqueous solution with methylene chloride and dry the organic layer with anhydrous sodium sulfate. Concentration at reduced pressure gives the title compound.

reactant | tin chloride dihydrate | 2.10 mol, 474 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | 4-(4-nitrophenyl)-1-(phenylmethyl)piperazine | 0.420 mol, 125 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1 | C17H19N3O2
solvent | ethanol | C(C)O | C2H6O
product | 4-[4-(Phenylmethyl)piperazin-1-yl]benzenamine | C1(=CC=CC=C1)CN1CCN(CC1)C1=CC=C(C=C1)N | C17H21N3
